US05274143
In a flame-dried flask under N2 a mixture of 659 mg (10.1 mmol) zinc and 755 mg (1.99 mmol)(R)-3-[(bromoacetyl)oxy]tetradecanoic acid methyl ester in 10 mL 20% v:v Et2O:chlorotrimethylsilane was heated at reflux with rapid stirring for 20 min. The mixture was cooled to room temperature and suction filtered through a coarse fritted funnel, using a pad of celite, and washing with 10 mL Et2O. The homogenous filtrate was cooled in an ice/H2O bath and 10 mL tap H2O was added with stirring. After 10 min, the mixture was poured into 100 mL tap H2O and extraction with 3×50 mL Et2O was performed. The combined organic layers were washed with 50 mL brine and dried over MgSO4. The Et2O was removed by rotary evaporation giving 669 mg crude yellow solid. The solid was slurried in 9.0 mL hexanes for 30 min, followed by suction filtration through a medium fritted funnel. The product was dried under 25" vacuum at room temperature for 1.5 h, giving 120 mg (22%) (R)-5,6-dihydro-4-hydroxy-6-undecyl -2H-pyran-2-one as a white powder, mp=86°-7° C.

reactant | (R)-3-[(bromoacetyl)oxy]tetradecanoic acid methyl ester | 1.99 mmol, 755 mg | COC(C[C@@H](CCCCCCCCCCC)OC(CBr)=O)=O | C17H31BrO4
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
catalyst | zinc | 10.1 mmol, 659 mg | [Zn] | Zn
solvent | Et2O | CCOCC | C4H10O
product | (R)-5,6-dihydro-4-hydroxy-6-undecyl -2H-pyran-2-one | 120 mg, 22% | OC1=CC(O[C@@H](C1)CCCCCCCCCCC)=O | C16H28O3
